US09079866B2
5-[2′-(Cyclopropylsulfonyl)-3-fluorobiphenyl-4-yl]-1H-pyrrolo[2,3-b]pyridine
The title compound was prepared using methods analogous to those described in Example 376 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine and 1-bromo-2-(cyclopropylsulfonyl)benzene. MS (ESI): mass calcd. for C22H17FN2O2S, 392.10; m/z found, 393.0 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 9.26 (s, 1H), 8.62-8.52 (m, 1H), 8.24-8.12 (m, 2H), 7.71-7.63 (m, 1H), 7.62-7.53 (m, 2H), 7.45-7.31 (m, 4H), 6.64-6.55 (m, 1H), 2.19-2.08 (m, 1H), 1.18-1.08 (m, 2H), 0.93-0.82 (m, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=C2C(=NC1)NC=C2 | C19H20BFN2O2
reactant | 1-bromo-2-(cyclopropylsulfonyl)benzene | BrC1=C(C=CC=C1)S(=O)(=O)C1CC1 | C9H9BrO2S
product | 5-[2′-(Cyclopropylsulfonyl)-3-fluorobiphenyl-4-yl]-1H-pyrrolo[2,3-b]pyridine | C1(CC1)S(=O)(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)C=1C=C2C(=NC1)NC=C2)F | C22H17FN2O2S
